US05232945
E. (R)-(-)-3,4-Dihydro-6-formyl-2-(4-hydroxybenzyl)-2H-benzopyran
(R)-(-)-2-(4-Acetoxybenzyl)-3,4-dihydro-6-formyl-2H-benzopyran (15.7 g, 51 mmol) was dissolved in a mixture of methanol (200 ml), tetrahydrofuran (200 ml) and 2M NaOH (200 ml) and stirred at room temperature for 2 hours. The reaction mixture was concentrated in vacuo, diluted with water (100 ml) and acidified with 10% HCl (250 ml). The aqueous solution was extracted with ethyl acetate (2×500 ml) and the combined organics were washed with water (250 ml), brine (250 ml), and dried (MgSO4). The solvent was removed in vacuo and the residue was crystallized from hexanes/ethyl acetate (3:1) to afford 10.1 g of the title compound, mp 134°-135° C.; [α]D -155.2° (c 1.0, MeOH); 1H NMR (300 MHz CDCl3) δ1.6 (m, 1H), 1.9 (m, 1H), 2.8 (m, 3H), 3.0 (dd, 1H), 4.2 (m, 1H), 5.1 (br s, 1H, OH), 6.7 (d, 2H), 6.8 (d, 1H), 7.0 (d, 2H), 7.5 (m, 2H), 9.7 (s, 1H).

reactant | (R)-(-)-2-(4-Acetoxybenzyl)-3,4-dihydro-6-formyl-2H-benzopyran | 51 mmol, 15.7 g | C(C)(=O)OC1=CC=C(C[C@@H]2OC3=C(CC2)C=C(C=C3)C=O)C=C1 | C19H18O4
solvent | methanol | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | NaOH | 2M, 200 ml | [OH-].[Na+]
product | (R)-(-)-3,4-Dihydro-6-formyl-2-(4-hydroxybenzyl)-2H-benzopyran | 10.1 g | C(=O)C=1C=CC2=C(CC[C@@H](O2)CC2=CC=C(C=C2)O)C1 | C17H16O3
